US07932247B2
{3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid
A solution of 1,1-dimethylethyl (2S)-4-[(3-bromophenyl)methyl]-2-methyl-1-piperazine carboxylate (1.8 g, 4.9 mmol) in THF (4.9 mL) was mixed with nBuLi (3.7 mL, 1.6 M in Hexane, 5.9 mmol) at −78° C. and stirred for 30 min before B(OMe)3 (2.2 mL, 19.6 mmol) was added. After addition, the resulting solution was warmed up to room temperature within 2 hours. The mixture was then mixed with saturated aqueous NH4Cl solution (10 mL), stirred for 25 minutes at room temperature, diluted with H2O (5 mL) and extracted with Et2O (2×30 mL). The organic layers were collected, dried over Na2SO4, filtered and concentrated to afford the crude title compound (1.7 g, quantitative yield): LC/MS: m/z 335 (M+H); 1H-NMR (MeOD) δ 1.24 (d, 3H), 1.46 (s, 9H), 2.00 (m, 1H), 2.13 (m, 1H), 2.68 (d, 1H), 2.82 (d, 1H), 3.12 (m, 1H), 3.44 (m, 1H), 3.56 (m, 1H), 3.80 (d, 1H), 4.18 (m, 1H), 7.33 (m, 1H), 7.38 (m, 1H), 7.51 (d, 1H), 7.59 (s, 1H).

reactant | 1,1-dimethylethyl (2S)-4-[(3-bromophenyl)methyl]-2-methyl-1-piperazine carboxylate | 4.9 mmol, 1.8 g | BrC=1C=C(C=CC1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H25BrN2O2
reactant | nBuLi | 5.9 mmol, 1.6 M, 3.7 mL | [Li]CCCC
reactant | B(OMe)3 | 19.6 mmol, 2.2 mL | B(OC)(OC)OC | C3H9BO3
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 4.9 mL | C1CCOC1 | C4H8O
solvent | H2O | 5 mL | O | H2O
product | {3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid | 1.7 g, quantitative yield | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)B(O)O)C | C17H27BN2O4
